US06399627B1
A. Preparation of (Z) methyl 3-cyanocinnamate
To a solution of bis(2,2,2-trifluoroethyl)(methoxycarbonylmethyl) phosphonate (1.00 g, 3.14 mmol) and 18-crown-6 (4.14 g, 15.7 mmol) in THF (50 mL) at −78 C, potassium bis(trimethylsilyl)amide (6.3 mL, 0.5 M in toluene, 3.15 mmol) was added dropwise. After the addition was completed, 3-cyanobenzaldehyde (0.412 g, 3.14 mmol) in THF (8 mL) was added. The mixture was stirred at −78 C for 30 min before it was quenched with aq. NH4Cl. Water and ether were added. Aqueous phase was separated, extracted with ether once more. The combined organic solutions were dried over Na2SO4, concentrated in vacuo to give a solid, which was purified by a silica gel column, first eluted with EtOAc/hexane (5/95), then with EtOAc/hexane (10/90) to give the titled compound (0.40 g) (yield: 68%). 1H NMR (CDCl3) 7.85 (s, 1H), 7.77 (d, 1H, J=8 Hz), 7.60 (d, 1H, J=8 Hz), 7.45 (t, 1H, J=8 Hz), 6.91 (d, 1H, J=12 Hz), 6.06 (d, 1H, J=12 Hz).

reactant | bis(2,2,2-trifluoroethyl)(methoxycarbonylmethyl) phosphonate | 3.14 mmol, 1.00 g | P(OC(C(=O)OC)(CC(F)(F)F)CC(F)(F)F)([O-])=O
reactant | 18-crown-6 | 15.7 mmol, 4.14 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | potassium bis(trimethylsilyl)amide | 3.15 mmol, 0.5 M, 6.3 mL | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | 3-cyanobenzaldehyde | 3.14 mmol, 0.412 g | C(#N)C=1C=C(C=O)C=CC1 | C8H5NO
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 8 mL | C1CCOC1 | C4H8O
solvent | EtOAc hexane | CCOC(=O)C.CCCCCC
product | methyl 3-cyanocinnamate | 0.40 g, yield: 68% | C(#N)C=1C=C(C=CC(=O)OC)C=CC1 | C11H9NO2
